US04344855
133 g of o-tolylisocyanate and 5 g of solid, insoluble catalyst from Example 1a were heated together to 180° C. with stirring. After the evolution of 12.3 liters of carbon dioxide, which took place within 1.5 hours, the catalyst was suction filtered and the filtrate distilled. 95.3 g of di-o-tolyl-carbodiimide, b.p. 135°-137° C./0.1 Torr were obtained (87% of the theory).

reactant | o-tolylisocyanate | 133 g | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | carbon dioxide | 12.3 liters | C(=O)=O | CO2
product | di-o-tolyl-carbodiimide | 95.3 g | C1(=C(C=CC=C1)N=C=NC1=C(C=CC=C1)C)C | C15H14N2
